US03935261
Pyridine-sulphur trioxide complex (17.1 g., 0.108 mole) in dimethylsulphoxide (90 ml.) was added dropwise to a mixture of 6-(2-tetrahydropyranyloxy)-hexanol (7.2 g., 0.036 mole) and triethylamine (27 g., 0.27 mole) in dimethylsulphoxide (90 ml.) at 25°C. The mixture was stirred for a further hour, then 2N acetic acid (100 ml.), water (200 ml.) and diethyl ether (500 ml.) added successively, the layers separated and the aqueous layer extracted with diethyl ether. The combined ether solutions were washed quickly with 2N hydrochloric acid, aqueous sodium carbonate and then water, and dried over sodium sulphate. The solvent was evaporated and the residue distilled under reduced pressure to give 6-(2-tetrahydropyranyloxy)hexanal (4.65 g., 63%), b.p. 75°-105°C./0.15 mm.Hg.

reactant | 6-(2-tetrahydropyranyloxy)-hexanol | 0.036 mole, 7.2 g | O1C(CCCC1)OCCCCCCO | C11H22O3
reactant | triethylamine | 0.27 mole, 27 g | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 2N, 100 ml | C(C)(=O)O | C2H4O2
reactant | water | 200 ml | O | H2O
solvent | dimethylsulphoxide | 90 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 90 ml | CS(=O)C | C2H6OS
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 6-(2-tetrahydropyranyloxy)hexanal | 4.65 g, 63% | O1C(CCCC1)OCCCCCC=O | C11H20O3
